US05072049
470.6 g (5.0 moles) of phenol and 6.2 g (0.1 mole) of boric acid were placed in a glass flask having a capacity of 2 liters. While the mixture was heated to 180°-186° C., 102.2 g (1.0 mole) of 96% sulfuric acid were added dropwise, after which the water of reaction was removed at 180°-186° C. The phenol was then distilled off over a period of 2 hours at a temperature of from 160° to 200° C. Analysis of the crude product revealed the following composition: 3% phenol, 1% isomeric sulfone and 97% bis(4-hydroxyphenyl) sulfone. Further purification was conducted as described in Example 1. There were obtained 205 g (0.82 mole; yield 82%) of bis(4-hydroxylphenyl) sulfone showing a purity of >99%.

reactant | phenol | 5.0 moles, 470.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | boric acid | 0.1 mole, 6.2 g | B(O)(O)O | BH3O3
reactant | sulfuric acid | 1.0 mole, 102.2 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | bis(4-hydroxylphenyl) sulfone | 0.82 mole, 205 g, yield 82% | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O | C12H10O4S
